US08975254B2
N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was prepared using the method of Example 54 but starting from 5-(2-furyl)-4H-pyrazole-3-carboxylic acid (36 mg; 0.20 mmol) and 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (50 mg; 0.20 mmol). Crude product was purified by chromatography (CombiFlash, silica column, eluent: 0-100% MeOH/DCM) to obtain 29 mg (36%) of the title compound. 1H-NMR (400 MHz; d1-CDCl3): δ 3.90-3.96 (m, 2H), 4.41 (t, 2H), 6.51-6.53 (m, 1H), 6.61 (d, 1H), 6.66 (d, 1H), 6.95 (s, 1H), 7.48-7.50 (m, 2H), 7.61 (broad s, 1H), 7.68 (d, 1H), 7.76-7.79 (m, 1H), 8.11 (s, 1H), 10.45 (broad s, 1H).

reactant | 5-(2-furyl)-4H-pyrazole-3-carboxylic acid | 0.20 mmol, 36 mg | O1C(=CC=C1)C=1CC(=NN1)C(=O)O | C8H6N2O3
reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.20 mmol, 50 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl | C12H11ClN4
product | N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)ethyl)-3-(furan-2-yl)-1H-pyrazole-5-carboxamide | 29 mg, 36% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)CCNC(=O)C1=CC(=NN1)C=1OC=CC1 | C20H15ClN6O2
